US08703795B2
h) 2,3-Bis-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester
3-Bromo-2-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester (0.34 g, 0.89 mmol), example 36-g, 4-fluoro-phenyl boronic acid (0.373 mg, 2.67 mmol), sodium methoxide (0.433 g, 8.01 mmol), and tetrakis(triphenylphosphine)palladium(0) (257 mg, 0.22 mmol) were suspended in 15 mL of 1,4-dioxane. The reaction mixture was heated at 120° C. for 30 min. using a CEM microwave reactor (CEM, Matthews, N.C.). The reaction mixture was diluted with ethyl acetate, and washed with saturated sodium bicarbonate and brine solutions. The organic fraction was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-60% ethyl acetate in hexanes to produce 0.179 g of a yellow solid. MS: (+) m/z 398.0 (M+1).

reactant | 3-Bromo-2-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester | 0.89 mmol, 0.34 g | COC(=O)C1=C(C2=C(C=N1)C(=C(S2)C2=CC=C(C=C2)F)Br)O | C15H9BrFNO3S
reactant | 4-fluoro-phenyl boronic acid | 2.67 mmol, 0.373 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium methoxide | 8.01 mmol, 0.433 g | C[O-].[Na+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.22 mmol, 257 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,3-Bis-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester | 0.179 g | COC(=O)C1=C(C2=C(C=N1)C(=C(S2)C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)O | C21H13F2NO3S
